US07297796B2
G. DCC/HOBt-Coupling (Vp)
These reactions were done in a 96-well plate. The reagents are given per well. Sulfonamide benzoic acid IIIp (4 mg, 0.012 mmol) in 300 μl N,N-dimethylformamide and polystyrene-DCC resin (15 mg, loading ca. 1.27 mmol/g) were combined with HOBt (2 mg, 0.015 mmol) and amine B (0.010 mmol). The reaction was shaken for 24 h, then polystyrene-(polystyrene)-trisamine resin (9 mg, loading ca. 4.36 mmol/g) was added and shaken overnight. The reaction was filtered and the N,N-dimethylformamide evaporated.

reactant | HOBt | 0.015 mmol, 2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-dimethylformamide | 300 μl | CN(C=O)C | C3H7NO
product | DCC HOBt | C1CCC(CC1)N=C=NC2CCCCC2.C=1C=CC2=C(C1)N=NN2O | InChI=1S/C13H22N2.C6H5N3O/c1-3-7-12(8-4-1)14-11-15-13-9-5-2-6-10-13;10-9-6-4-2-1-3-5(6)7-8-9/h12-13H,1-10H2;1-4,10H
